US06294547B1
Synthesis of 2-t-butoxycarbonyl-10-methoxycarbonylamino-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine
2-t-Butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine-10-carboxamide (0.5 g, 1.53 mmol) was added to a solution of sodium (0.078 g, 3.37 mmol) in methanol (31 ml), and bromine (0.245 g, 1.53 mmol) was added dropwise thereto while maintaining the temperature at 25° C. or lower. After completion of the dropwise addition, the resulting mixture was heated under reflux for 30 minutes. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure, and the residue was purified by a silica gel chromatography (hexane-ethyl acetate=1 : 1) to obtain the desired compound (0.46 g, 1.28 mmol, 84%).

reactant | 2-t-Butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine-10-carboxamide | 1.53 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CC=2C(=C3C(=NC2CC1)C=CC=C3)C(=O)N | C18H21N3O3
reactant | sodium | 3.37 mmol, 0.078 g | [Na] | Na
reactant | bromine | 1.53 mmol, 0.245 g | BrBr | Br2
reactant | Water | O | H2O
solvent | methanol | 31 ml | CO | CH4O
product | 2-t-butoxycarbonyl-10-methoxycarbonylamino-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine | 1.28 mmol, 0.46 g, 84% | C(C)(C)(C)OC(=O)N1CC=2C(=C3C(=NC2CC1)C=CC=C3)NC(=O)OC | C19H23N3O4
